US06207695B1
(S)-2-Iodo-(2′,4′-dichlorophenyl)-1-ethanol:
(S)-2-Chloro-(2′,4′-dichlorophenyl)-1-ethanol (4 g, 17.74 mmol) was dissolved in 100 mL of anhydrous acetone (4 Å molecular sieves). The solution was flushed with nitrogen, and NaI (12.75 g, 85.10 mmol) was added to the solution and the solution refluxed for 3.5 hours under nitrogen. Upon cooling to room temperature, the solution was poured into about 320 mL of hexanes/ethyl acetate (3:1), with stirring. The solution was then filtered to remove excess NaI which had precipitated. The filtrate was evaporated to dryness in vacuo to yield a yellow oil. The oil was decanted, the residue treated with ether, and the ether washings decanted from the solid NaI. The ether solutions were combined and evaporated to dryness. Upon removal of ether, the product was obtained as a yellow crystalline solid. Yield: 4.70 g (84%).

reactant | (S)-2-Chloro-(2′,4′-dichlorophenyl)-1-ethanol | 17.74 mmol, 4 g | ClC[C@@H](O)C1=C(C=C(C=C1)Cl)Cl | C8H7Cl3O
reactant | NaI | 85.10 mmol, 12.75 g | [Na+].[I-]
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | (S)-2-Iodo-(2′,4′-dichlorophenyl)-1-ethanol | IC[C@@H](O)C1=C(C=C(C=C1)Cl)Cl | C8H7Cl2IO
